US07612075B2
4-(tert-Butyloxycarbonyl)-piperazin-2-one (8.0 g, 40 mmol), EXAMPLE 40, is dissolved in THF (160 mL), cooled in an ice bath and treated with 60% sodium hydride (1.9 g, 48 mmol). The reaction mixture is stirred 40 minutes, then treated with tetra-butylammonium iodide (0.35 g, 0.95 mmol) and bromoacetonitrile (3.4 mL, 48 mmol). After 2 h the reaction is quenched with water, concentrated to a small volume and extracted with methylene chloride (3×). The combined organic extracts are concentrated and the residue is chromatographed (50% ethyl acetate/hexane) to give 4-(tert-butyloxycarbonyl)-1-cyanomethyl-piperazin-2-one (5.2 g, 21.7 mmol). This material is dissolved in ethanol (140 mL) and treated with platinum oxide (0.83 g) at 50 PSI of hydrogen gas for 24 hours. The catalyst is removed by filtration and the solution is concentrated to yield 4-(tert-butyloxycarbonyl)-1-(2-aminoethyl)-piperazin-2-one (5.2 g, 21.6 mmol). 1H NMR (CDCl3, 300 MHz) δ4.08 (s, 2H), 3.62 (m, 2H), 3.44 (t, 2H), 3.38 (t, 2H), 2.89 (t, 2H).

reactant | 4-(tert-Butyloxycarbonyl)-piperazin-2-one | 40 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | sodium hydride | 48 mmol, 1.9 g | [H-].[Na+]
reactant | bromoacetonitrile | 48 mmol, 3.4 mL | BrCC#N | C2H2BrN
solvent | THF | 160 mL | C1CCOC1 | C4H8O
catalyst | tetra-butylammonium iodide | 0.95 mmol, 0.35 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(tert-butyloxycarbonyl)-1-cyanomethyl-piperazin-2-one | 21.7 mmol, 5.2 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC#N)=O | C11H17N3O3
